US09126993B2
N-[2-(4′,6-difluorobiphenyl-3-yl)propan-2-yl]-1,4-diazabicyclo[3.2.2]nonane-4-carboxamide
Using general procedure E, N-[2-(3-bromo-4-fluorophenyl)propan-2-yl]-1,4-diazabicyclo[3.2.2]nonane-4-carboxamide (100 mg, 0.261 mmol), 4-fluorophenyl boronic acid (91 mg, 0.65 mmol) and palladium (II) acetate gave the title compound as an off-white solid (64 mg, 62%). 1H NMR (400 MHz, CDCl3) δ 7.48 (m, 2H), 7.37-7.30 (m, 2H), 7.10-7.03 (m, 3H), 4.77 (s, 1H), 3.99 (br s, 1H), 3.58 (m, 2H), 3.10-2.90 (m, 6H), 1.98 (m, 2H) 1.71 (m, 8H) ppm. 13C NMR (100 MHz, CDCl3) δ 163.7, 161.3, 159.5, 157.1, 155.6, 144.6, 131.0, 130.9, 127.4, 127.2, 125.7, 116.1, 115.6, 57.9, 55.2, 48.2, 46.4, 46.4, 41.5, 30.6, 30.6, 27.6, 27.6 ppm. Purity: >99% UPLCMS (210 nm); retention time 0.90 min; (M+1) 400.

reactant | N-[2-(3-bromo-4-fluorophenyl)propan-2-yl]-1,4-diazabicyclo[3.2.2]nonane-4-carboxamide | 0.261 mmol, 100 mg | BrC=1C=C(C=CC1F)C(C)(C)NC(=O)N1CCN2CCC1CC2 | C17H23BrFN3O
reactant | 4-fluorophenyl boronic acid | 0.65 mmol, 91 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-[2-(4′,6-difluorobiphenyl-3-yl)propan-2-yl]-1,4-diazabicyclo[3.2.2]nonane-4-carboxamide | 64 mg, 62% | FC1=CC=C(C=C1)C1=CC(=CC=C1F)C(C)(C)NC(=O)N1CCN2CCC1CC2 | C23H27F2N3O
